US08026270B2
Diethyl 1-(ethyloxy)-4-[(phenylmethyl)oxy]-2,3-naphthalenedicarboxylate
Benzyl bromide (1.32 ml, 11.1 mmol) was added to a stirred solution of diethyl 1-(ethyloxy)-4-hydroxy-2,3-naphthalenedicarboxylate (2.45 g, 7.38 mmol) and potassium carbonate (1.53 g, 11.1 mmol) in acetone (50 ml). The reaction mixture was refluxed for 1 hour under an atmosphere of argon. The resulting mixture was evaporated and the residue was partitioned between 2× ethylacetate and brine. The combined organics were washed with water and dried over magnesium sulphate. The clear oil was purified by chromatography on silica gel, eluting with ethyl acetate (0-40%) in hexane to give the title compound as clear oil (3.05 g, 7.23 mmol). LC/MS: Rt=3.77, [MH]+ 423

reactant | Benzyl bromide | 11.1 mmol, 1.32 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | diethyl 1-(ethyloxy)-4-hydroxy-2,3-naphthalenedicarboxylate | 7.38 mmol, 2.45 g | C(C)OC1=C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)C(=O)OCC | C18H20O6
reactant | potassium carbonate | 11.1 mmol, 1.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Diethyl 1-(ethyloxy)-4-[(phenylmethyl)oxy]-2,3-naphthalenedicarboxylate | 7.23 mmol, 3.05 g | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C(=O)OCC)C(=O)OCC | C25H26O6
